US04703044
A suspension of 6-methoxy-8-nitroquinoline (20 g, 98 mmol) in methanol (200 ml) was hydrogenated over PtO2 (0.5 g) at 50 p.s.i. for 2.5 hours. The solution was treated with acetic acid (11.5 ml, 200 mmol) and PtO2 (0.5 g) and hydrogenated at 50 p.s.i. for 18 hours. The catalyst was removed by filtration and the solution evaporated in vacuo to give an oil. The residue was basified with 1 N-sodium hydroxide (200 ml) and the aqueous mixture extracted with diethyl ether (2×200 ml). The extracts were dried (MgSO4) and evaporated in vacuo to give crude 8-amino-1,2,3,4-tetrahydro-6-methoxyquinoline as a red oil.

reactant | 6-methoxy-8-nitroquinoline | 98 mmol, 20 g | COC=1C=C2C=CC=NC2=C(C1)[N+](=O)[O-] | C10H8N2O3
reactant | acetic acid | 200 mmol, 11.5 ml | C(C)(=O)O | C2H4O2
reactant | sodium hydroxide | 200 ml | [OH-].[Na+]
solvent | methanol | 200 ml | CO | CH4O
catalyst | PtO2 | 0.5 g | O=[Pt]=O
catalyst | PtO2 | 0.5 g | O=[Pt]=O
product | 8-amino-1,2,3,4-tetrahydro-6-methoxyquinoline | NC=1C=C(C=C2CCCNC12)OC | C10H14N2O
